US05061720
5,5-Dimethyl-2-(3-phenoxyphenyl)-3-(4-phenylbutyl)-4-thiazolidinone.
Using the procedures of Example 5, the title compound was prepared as a light yellow viscous oil (8.4 g, 65%) from 5.9 g (0.030 mole) of 3-phenoxybenzaldehyde (Fluka), 3.6 g (0.030 mole) of 2-mercapto-2-methylpropionic acid, and 4.6 g (0.030 mole) of 4-phenylbutylamine after refluxing in 250 ml of benzene overnight.

reactant | 3-phenoxybenzaldehyde | 0.030 mole, 5.9 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | 2-mercapto-2-methylpropionic acid | 0.030 mole, 3.6 g | SC(C(=O)O)(C)C | C4H8O2S
reactant | 4-phenylbutylamine | 0.030 mole, 4.6 g | C1(=CC=CC=C1)CCCCN | C10H15N
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 5,5-Dimethyl-2-(3-phenoxyphenyl)-3-(4-phenylbutyl)-4-thiazolidinone | CC1(C(N(C(S1)C1=CC(=CC=C1)OC1=CC=CC=C1)CCCCC1=CC=CC=C1)=O)C | C27H29NO2S
